US07547696B2
b.) 2-Amino-5-(4-benzylpiperazin-1-yl)benzoic acid
The mixture of 6 g of 2-nitro-5-(4-benzylpiperazin-1-yl)benzoic acid, 15 mL of cyclohexene and 3 g of Pd/C (10%) is heated under reflux conditions in 120 mL of ethanol for 6 hours. The hot reaction mixture is filtered through celite filter. The filtrate is evaporated to obtain 4.8 g of the title compound. m.p.: 242° C.

reactant | 2-nitro-5-(4-benzylpiperazin-1-yl)benzoic acid | 6 g | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)N1CCN(CC1)CC1=CC=CC=C1 | C18H19N3O4
reactant | cyclohexene | 15 mL | C1=CCCCC1 | C6H10
solvent | ethanol | 120 mL | C(C)O | C2H6O
catalyst | Pd/C | 3 g | [Pd] | Pd
product | 2-Amino-5-(4-benzylpiperazin-1-yl)benzoic acid | 4.8 g | NC1=C(C(=O)O)C=C(C=C1)N1CCN(CC1)CC1=CC=CC=C1 | C18H21N3O2
